************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: TLATNCAX16
* View Name:     schematic
* Netlisted on:  Jun  4 07:51:38 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    TLATNCAX16
* View Name:    schematic
************************************************************************

.SUBCKT TLATNCAX16 CK E ECK VDD VSS
*.PININFO CK:I E:I VDD:I VSS:I ECK:O
Mmn5 net254 E VSS VSS g45n1svt m=1 l=45n w=145n
Mmn6 n0 CKb net254 VSS g45n1svt m=1 l=45n w=145n
Mmn22 ECK ECKb VSS VSS g45n1svt m=1 l=45n w=4.13u
Mmn21 ECKb CKbb net238 VSS g45n1svt m=1 l=45n w=1.04u
Mmn20 net238 Eint VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn16 n0 CKbb net230 VSS g45n1svt m=1 l=45n w=145n
Mmn15 net230 Eint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 Eint n0 VSS VSS g45n1svt m=1 l=45n w=410n
Mmn1 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmp6 n0 CKbb net217 VDD g45p1svt m=1 l=45n w=215n
Mmp5 net217 E VDD VDD g45p1svt m=1 l=45n w=215n
Mmp22 ECK ECKb VDD VDD g45p1svt m=1 l=45n w=6.23u
Mmp16 n0 CKb net205 VDD g45p1svt m=1 l=45n w=215n
Mmp15 net205 Eint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 ECKb Eint VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp21 ECKb CKbb VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp10 Eint n0 VDD VDD g45p1svt m=1 l=45n w=620n
.ENDS

