************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: TLATNSRX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:51:51 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    TLATNSRX2
* View Name:    schematic
************************************************************************

.SUBCKT TLATNSRX2 D GN Q QN RN SN VDD VSS
*.PININFO D:I GN:I RN:I SN:I VDD:I VSS:I Q:O QN:O
Mmn5 net366 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn6 n5 GNb net366 VSS g45n1svt m=1 l=45n w=145n
Mmn17 n5 GNbb net354 VSS g45n1svt m=1 l=45n w=145n
Mmn16 net354 qint net350 VSS g45n1svt m=1 l=45n w=145n
Mmn15 net350 RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn11 qint n5 net342 VSS g45n1svt m=1 l=45n w=205n
Mmn10 net342 SN VSS VSS g45n1svt m=1 l=45n w=205n
Mmn21 Q qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn0 GNbp GN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn2 GNbb GNbp net326 VSS g45n1svt m=1 l=45n w=145n
Mmn1 net326 RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn3 GNb GNbb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 qbint qint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn22 QN qint VSS VSS g45n1svt m=1 l=45n w=520n
Mmp6 n5 GNbb net313 VDD g45p1svt m=1 l=45n w=215n
Mmp5 net313 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 qint SN VDD VDD g45p1svt m=1 l=45n w=310n
Mmp22 QN qint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp21 Q qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp0 GNbp GN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 GNb GNbb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp17 n5 GNb net270 VDD g45p1svt m=1 l=45n w=215n
Mmp2 GNbb GNbp VDD VDD g45p1svt m=1 l=45n w=215n
Mmp16 net270 qint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp15 net270 RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 qbint qint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp1 GNbb RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp11 qint n5 VDD VDD g45p1svt m=1 l=45n w=310n
.ENDS

